US09315521B2
A mixture of 2-{[(3,5-dichloropyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (2.0 g, 6.62 mmol) and phosphoryl trichloride (20 mL) was heated at 75° C. for 1 hour. The solvent was evaporated, and the crude residue was extracted into ethyl acetate (2×100 mL). The organic layer was washed with 10% sodium bicarbonate solution and brine. The organic layer was separated, dried over anhydrous sodium sulfate, and filtered. The solvent was evaporated, and the residue was purified by CombiFlash using 0-5% methanol in dichloromethane to provide 4-chloro-2-{[(3,5-dichloropyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidine as a white solid (1.01 g, 47.1% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.45 (s, 3H), 4.70 s, 2H), 7.40 (s, 1H), 8.66 (d, 211); M+1 321.2.

reactant | 2-{[(3,5-dichloropyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 6.62 mmol, 2.0 g | ClC=1C=NC=C(C1CSC1=NC(=CC(=N1)O)C)Cl | C11H9Cl2N3OS
reactant | phosphoryl trichloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-{[(3,5-dichloropyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidine | 1.01 g, 47.1% yield | ClC1=NC(=NC(=C1)C)SCC1=C(C=NC=C1Cl)Cl | C11H8Cl3N3S
